US08461164B2
4-[2-(Pteridin-4-ylamino)-ethyl]-phenol (300 mg, 10.1 mmol), triphenylphosphine (790 mg, 3.0 mmol) and 2-(4-benzyloxyphenyl)ethanol (700 mg, 3.0 mmol) were combined in 10 mL anh. dioxane, treated with diisopropylazodicarboxylate (590 μL, 610 mg, 3.0 mmol) and stirred for 18 h. The volatiles were removed in vacuo and the residue was chromatographed on SiO2 with EtOAc (10% to 40%) in CH2Cl2 to obtain (2-{4-[2-(4-benzyloxyphenyl)-ethoxy]-phenyl}-ethyl)-pteridin-4-ylamine (105 mg; 20%) as a white solid: mp 120-122° C.; ESIMS m/z 478 ([M+H]+); 1H NMR (300 MHz, CDCl3) δ 9.23 (s, 1H), 8.96 (s, 1H), 8.80 (s, 1H), 6.8-7.5 (m, 13H), 4.1 (m, 2H), 3.90 (m, 2H), 3.01 (m, 4H).

reactant | 4-[2-(Pteridin-4-ylamino)-ethyl]-phenol | 10.1 mmol, 300 mg | N1=CN=C(C2=NC=CN=C12)NCCC1=CC=C(C=C1)O | C14H13N5O
reactant | triphenylphosphine | 3.0 mmol, 790 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(4-benzyloxyphenyl)ethanol | 3.0 mmol, 700 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCO | C15H16O2
reactant | diisopropylazodicarboxylate | 3.0 mmol, 590 μL, 610 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2-{4-[2-(4-benzyloxyphenyl)-ethoxy]-phenyl}-ethyl)-pteridin-4-ylamine | 105 mg, 20% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CCNC1=NC=NC2=NC=CN=C12 | C29H27N5O2
